US07683096B2
Preparation of 2,6-difluoro-N-[1-methyl-l-(3-thenoyl)ethyl]benzamide (The after-mentioned Compound No. 6-5)
4 ml of tetrahydrofuran and 0.08 ml of water were added to 0.68 g of 2-azido-2-(3-thenoyl)propane, then 1.10 g of triphenylphosphine was gradually added thereto with stirring at room temperature, and after completion of addition, a reaction was carried out for 18 hours. 15 ml of tetrahydrofuran was added to the reaction mixture, then 0.30 g of triethylamine was added, followed by cooling with ice, and a mixed solution of 0.46 g of 2,6-difluorobenzoyl chloride and 5 ml of tetrahydrofuran was dropwise added thereto. After completion of the dropwise addition, a reaction was carried out for 30 minutes under cooling with ice, and then a further reaction was carried out for 2.5 hours at room temperature. After completion of the reaction, the reaction mixture was put into 100 ml of water and extracted by ethyl acetate. The organic layer was dried over sodium sulfate, concentrated and purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=4/6) to obtain 0.60 g of the desired product having a melting point of from 139 to 142° C. The NMR spectrum data of this product were as follows.

reactant | 2-azido-2-(3-thenoyl)propane | 0.68 g | N(=[N+]=[N-])C(C)(C)C(C1=CSC=C1)=O | C8H9N3OS
reactant | triphenylphosphine | 1.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,6-difluorobenzoyl chloride | 0.46 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.30 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 0.08 ml | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2,6-difluoro-N-[1-methyl-l-(3-thenoyl)ethyl]benzamide | 0.60 g | FC1=C(C(=O)NC(C)(C(C2=CSC=C2)=O)C)C(=CC=C1)F | C15H13F2NO2S
